US06410795B1
A procedure analogous to that described in Example 5 was used for obtaining a liquid mixture of 1,3-diketones, using CE-810 (Procter & Gamble) as the starting methyl ester. This ester had the following chain length distribution: C6: 4.1 weight %; C8: 52.8%; C10: 42.7%; and C12: 0.3%. For the preparation of potassium benzhydroxide, 103.36 g (0.561 mol) of benzhydrol was reacted with 0.55 mol of potassium hydroxide as described in Example 4. After addition of the ester (71.5 g; 0.425 mol), acetophenone (44.06 g; 0.367 mol) was added over a period of 12 minutes and the mixture was allowed to react for a total of 70 minutes. The mixture was allowed to cool to room temperature, and was acidified with 10% sulfuric acid. The cumene layer was washed with water until the washes were neutral, and then concentrated under vacuum in a rotary evaporator. The residue was treated with heptane, allowed to stand for a few minutes, and then filtered, affording pure benzhydrol (63.2 g; 61.1% yield). The heptane was removed under vacuum. More benzhydrol was obtained by adding 500 mL of heptane, 500 mL of methanol, and 250 mL of water, stirring, removing the lower layer, and repeating this extraction several times. Upon evaporation of the lower layer under vacuum in a rotary evaporator, and washing the resulting crystals with heptane, 17.3 g of benzhydrol (16.7% yield) was obtained. Evaporation of the solvents in the upper layer afforded 80.0 g (85% yield) of CBM with a purity of over 95% (GC).

reactant | heptane | 500 mL | CCCCCCC | C7H16
reactant | methanol | 500 mL | CO | CH4O
solvent | water | 250 mL | O | H2O
product | benzhydrol | 17.3 g, 16.7% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
